US07834000B2
3-(1-(2-(3-Isopentyl-4-oxo-2-phenylthiazolidin-5-yl)propanoyl)piperidin-4-yl)-3,4-dihydroquinazolin-2(1H)-one (Compound #156)
To a solution of 2-(3-Isopentyl-4-oxo-2-phenylthiazolidin-5-yl)propanoic acid (11 mg, 0.034 mmol), 3,4-Dihydro-3-(piperidin-4-yl)quinazolin-2(1H)-one TFA (17 mg, 0.051 mmol) and DiPEA (24 ul, 0.14 mmol) in DMF (0.2 ml) was added HATU (17 mg, 0.044 mmol) and the reaction mixture was stirred at RT for 16 hours. Purification by preparative reverse phase HPLC using 10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA) gave the title compound.

reactant | 2-(3-Isopentyl-4-oxo-2-phenylthiazolidin-5-yl)propanoic acid | 0.034 mmol, 11 mg | C(CC(C)C)N1C(SC(C1=O)C(C(=O)O)C)C1=CC=CC=C1 | C17H23NO3S
reactant | 3,4-Dihydro-3-(piperidin-4-yl)quinazolin-2(1H)-one TFA | 0.051 mmol, 17 mg | OC(=O)C(F)(F)F.N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O
reactant | DiPEA | 0.14 mmol, 24 ul | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.044 mmol, 17 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 0.2 ml | CN(C)C=O | C3H7NO
product | 3-(1-(2-(3-Isopentyl-4-oxo-2-phenylthiazolidin-5-yl)propanoyl)piperidin-4-yl)-3,4-dihydroquinazolin-2(1H)-one | C(CC(C)C)N1C(SC(C1=O)C(C(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)C)C1=CC=CC=C1 | C30H38N4O3S
